US04636516
To a mixed solution of 0.9 g of an aqueous 40% dimethylamine solution, 0.5 g of an aqueous 35% formaldehyde solution, 1.5 ml of acetic acid, and 5 ml of dioxane was added 0.66 g of 6-(3,5-di-tert-butyl-4-hydroxyphenyl)-2,3-dihydroimidazo[2,1-b]thiazole and the resulting mixture was refluxed for 6 hours. The reaction mixture was concentrated under reduced pressure and the residue was mixed with 20 ml of an aqueous 10% potassium carbonate solution and extracted with chloroform. The extract was dried and concentrated, and the residue thus formed was purified by silica gel chromatography using chloroform as the eluent and further recrystallized from aqueous ethanol to provide 0.3 g of 5-dimethylaminomethyl-6-(3,5-di-tert-butyl-4-hydroxyphenyl)-2,3-dihydroimidazo[2,1-b]thiazole.1/4H2O.

reactant | dimethylamine | CNC | C2H7N
reactant | formaldehyde | C=O | CH2O
reactant | acetic acid | 1.5 ml | C(C)(=O)O | C2H4O2
reactant | 6-(3,5-di-tert-butyl-4-hydroxyphenyl)-2,3-dihydroimidazo[2,1-b]thiazole | 0.66 g | C(C)(C)(C)C=1C=C(C=C(C1O)C(C)(C)C)C=1N=C2SCCN2C1 | C19H26N2OS
solvent | dioxane | 5 ml | O1CCOCC1 | C4H8O2
product | 5-dimethylaminomethyl-6-(3,5-di-tert-butyl-4-hydroxyphenyl)-2,3-dihydroimidazo[2,1-b]thiazole | 0.3 g | CN(C)CC1=C(N=C2SCCN21)C2=CC(=C(C(=C2)C(C)(C)C)O)C(C)(C)C | C22H33N3OS
